US07589170B1
A mixture of propen-2-yl 3-benzyloxy-4-(propen-2-yloxy)benzoate (1.0356 g, 3.19 mmol), tris(triphenyl-phosphine)rhodium chloride1 (204 mg, 0.22 mmol) and 1,4-diazabicyclo[2.2.2]octane (74 mg, 0.66 mmol) in ethanol (18 cm3) and water (2 cm3) was heated under reflux under an atmosphere of nitrogen for 16 h. The cooled mixture was poured into 1 M hydrochloric acid (100 cm3), stirred for 60 min, then extracted with dichloromethane (3×100 cm3). The combined extracts were dried over MgSO4 and evaporated to an orange solid which was purified by flash column chromatography (eluent: 1:1 EtOAc:light petroleum) to give 3-benzyloxy-4-hydroxybenzoic acid as an orange solid (650 mg, 83%), m.p. 167.2-171.3° C.

reactant | propen-2-yl 3-benzyloxy-4-(propen-2-yloxy)benzoate | 3.19 mmol, 1.0356 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC(=C)C)C=CC1OC(=C)C | C20H20O4
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.66 mmol, 74 mg | N12CCN(CC1)CC2 | C6H12N2
reactant | hydrochloric acid | 1 M, 100 cm3 | Cl | ClH
solvent | ethanol | 18 cm3 | C(C)O | C2H6O
solvent | water | 2 cm3 | O | H2O
product | 3-benzyloxy-4-hydroxybenzoic acid | 650 mg, 83% | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1O | C14H12O4
